US05318992
Dissolve 5-hydroxynorvaline (13.3 g, 0.1 mol) in 1N sodium hydroxide (200 mL, 0.2 mol). Add a solution of CuSO4.5H2O (12.5 g, 0.05 mol) in water (50 mL). Stir the mixture until solution is complete. Treat with benzyl bromide (17.1 g, 0.1 mol) and stir at room temperature until reaction is complete. Suction filter, wash the residue with 1:3.5 methanol-water and dry at 60° C. to give the copper complex. Suspend the copper complex in water, treat with excess hydrogen sulfide, heat to boiling, then cool to room temperature. Mix with 1N sodium hydroxide and filter. Stir the filtrate with a slight excess of 1N hydrochloric acid and filter. Wash the residue with water and dry to give O-benzyl-5-hydroxynorvaline.

reactant | 5-hydroxynorvaline | 0.1 mol, 13.3 g | OCCC[C@H](N)C(=O)O | C5H11NO3
reactant | sodium hydroxide | 0.2 mol, 1N, 200 mL | [OH-].[Na+]
reactant | benzyl bromide | 0.1 mol, 17.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrogen sulfide | S | H2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | O-benzyl-5-hydroxynorvaline | C(C1=CC=CC=C1)OC([C@@H](N)CCCO)=O | C12H17NO3
